US04448962
A mixture of 1-ethyl-6-chloro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid 1.7 g (0.005 mole), benzylchloride 1.26 g (0.01 mole), triethylamine (0.01 mole) and DMF 10 ml was heated at 90°-100° C. for 7 hours under stirring. After cooling, the reaction mixture was dried up under vacuum. The residue was dissolved in CHCl3, washed with water, dried with anhydrous Na2SO4, and the solvent was distilled off. The residue was recrystallized from a mixed solvent of DMF and ethanol to obtain 1.1 g (52%) of 1-ethyl-6-chloro-7-(4-benzyl-1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid. Colorless prism.

reactant | 1-ethyl-6-chloro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 0.005 mole, 1.7 g | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)Cl)=O)C(=O)O | C16H18ClN3O3
reactant | benzylchloride | 0.01 mole, 1.26 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | triethylamine | 0.01 mole | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-ethyl-6-chloro-7-(4-benzyl-1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 1.1 g, 52% | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CC1=CC=CC=C1)Cl)=O)C(=O)O | C23H24ClN3O3
